US08048899B2
To a solution of 133 g (1.31 mol) of tetrahydropyran-4-ol in pyridine (1.5 L) are added 373 g (1.95 mol) of p-toluenesulfonylchloride portionwise at 10° C. After complete addition the reaction is allowed to warm to room temperature and stirred for 18 h. The reaction is poured onto a stirred mixture of aqueous HCl/ice. The resulting precipitate is isolated by filtration and dissolved in DCM (1 L). The organic layer is washed with 1M aqueous HCl solution (1 L), followed by saturated aqueous NaHCO3 solution (1 L) and is then dried over Na2SO4. Filtration and concentration of the filtrate under reduced pressure gives 300 g of toluene-4-sulfonic acid tetrahydropyran-4-yl ester as an orange oil. Yield: 90%, ES-MS: m/z: 257 [M+H], 279 [M+Na]

reactant | tetrahydropyran-4-ol | 1.31 mol, 133 g | O1CCC(CC1)O | C5H10O2
reactant | p-toluenesulfonylchloride | 1.95 mol, 373 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 1.5 L | N1=CC=CC=C1 | C5H5N
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid tetrahydropyran-4-yl ester | 300 g, Yield: 90% | O1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
